US06255494B1
Preparation of 4-methoxy-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole
A solution of 4-hydroxy-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole (300 mg, 0.6 mmol, 1 eq) in anhydrous N,N-dimethylformamide (3 m) was treated with sodium hydride (60% in mineral oil, 26 mg, 0.66 mmol, 1.1 eq). The resulting mixture was stirred for thirty minutes at room temperature. Methyl iodide (94 mg, 0.66 mmol, 1 eq) was added to the reaction and the resulting mixture was stirred for two hours at room temperature. The reaction was quenched with the addition of water (5 ml). The aqueous fraction was extracted with ethyl acetate (3×10 ml). The organic fractions were combined, washed with water (2×10 ml), then brine (1×10 ml), and then dried over sodium sulfate. The solvents were removed in vacuo. The residue was further purified by flash column chromatography to yield the title product as a crystalline product in 50% yield.

reactant | 4-hydroxy-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole | 0.6 mmol, 300 mg, 1 eq | OC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCN(CC2)C(=O)OC(C)(C)C | C27H34ClN3O4
reactant | sodium hydride | 0.66 mmol, 26 mg, 1.1 eq | [H-].[Na+]
reactant | Methyl iodide | 0.66 mmol, 94 mg, 1 eq | CI | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-methoxy-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole | 50% yield | COC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCN(CC2)C(=O)OC(C)(C)C | C28H36ClN3O4
